US05191092
2,2-Dimethyl-4-oxo-2,3,7,8-tetrahydro-7-carboxy-6H-cyclopenta[g]-1-benzopyran
9.8 g (5.5 mmol) of 5-hydroxy-indan-2-carboxylic acid are dissolved in 20 ml of nitrobenzene and 20 ml of carbon disulphide and 16.12 g (121 mmol) of aluminum trichloride are added in portions. 7.8 g (66 mmol) of dimethylacryloyl chloride in 20 ml of nitrobenzene are then added dropwise and the mixture is heated to 90° C. for 3 h. After cooling, 40 ml of concentrated hydrochloric acid and 40 g of ice are added and the mixture is shaken twice with 100 ml of CH2Cl2 each time. The combined CH2Cl2 phases are evaporated, the nitrobenzene is distilled off in a water jet vacuum and the residue is taken up in 100 ml of 10% strength NaOH solution. The NaOH phase is shaken twice with 100 ml of CH2Cl2 each time, then acidified using concentrated HCl solution with ice cooling and extracted 3 times using 100 ml of CH2Cl2 each time. After drying over Na2SO4, the solution is evaporated and the residue is flash chromatographed on silica gel (eluent: CH2Cl2 /acetone 10:1)

reactant | 5-hydroxy-indan-2-carboxylic acid | 5.5 mmol, 9.8 g | OC=1C=C2CC(CC2=CC1)C(=O)O | C10H10O3
reactant | aluminum trichloride | 121 mmol, 16.12 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | dimethylacryloyl chloride | 66 mmol, 7.8 g | CC(=CC(=O)Cl)C | C5H7ClO
reactant | hydrochloric acid | 40 ml | Cl | ClH
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | carbon disulphide | 20 ml | C(=S)=S | CS2
product | 2,2-Dimethyl-4-oxo-2,3,7,8-tetrahydro-7-carboxy-6H-cyclopenta[g]-1-benzopyran | CC1(OC2=C(C(C1)=O)C=C1C(=C2)CC(C1)C(=O)O)C | C15H16O4
